US07153878B2
4-Trifluoromethyl-benzoic acid 3-ethoxycarbonyl-1-ethyl-2-oxo-propyl ester (25 mmol) is dissolved in acetic acid (100 mL) and dry ammonium acetate (10 g, 100 mmol) is added, then the reaction is heated under nitrogen to reflux. The reaction is monitored by TLC and HPLC but complete consumption of the starting material is never observed, and then allowed to cool. The cooled reaction is concentrated and diluted with 250 mL ethyl acetate. The residue is washed with 100 mL saturated sodium bicarbonate followed by water and brine. The organic layer is dried over anhydrous sodium sulfate, then concentrated and purified by column chromatrography. The fractions that contained pure product are concentrated to yield [5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid ethyl ester (4.0 g, 12.22 mmol) or 50% yield.

reactant | 4-Trifluoromethyl-benzoic acid 3-ethoxycarbonyl-1-ethyl-2-oxo-propyl ester | 25 mmol | C(C)OC(=O)CC(C(CC)OC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C16H17F3O5
reactant | ammonium acetate | 100 mmol, 10 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | [5-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid ethyl ester | 12.22 mmol, 4.0 g, 50% yield | C(C)OC(CC=1N=C(OC1CC)C1=CC=C(C=C1)C(F)(F)F)=O | C16H16F3NO3
